US07217723B2
[2-(4-Fluoro-3-methoxyphenyl)ethyl]methylamine hydrochloride
To a solution of [2-(4-fluoro-3-methoxyphenyl)ethyl]methylcarbamic acid t-butyl ester (506 mg) in ethyl acetate (2 mL) was added a solution of 4N hydrochloric acid-ethyl acetate (2 mL) at room temperature and allowed to stand for 2.5 hours. The resulting solid was diluted with diethyl ether, then filtered, and washed with diethyl ether. After drying by aeration, the title compound (338 mg) was obtained as a colorless solid.

reactant | [2-(4-fluoro-3-methoxyphenyl)ethyl]methylcarbamic acid t-butyl ester | 506 mg | C(C)(C)(C)OC(N(C)CCC1=CC(=C(C=C1)F)OC)=O | C15H22FNO3
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | [2-(4-Fluoro-3-methoxyphenyl)ethyl]methylamine hydrochloride | 338 mg | Cl.FC1=C(C=C(C=C1)CCNC)OC | InChI=1S/C10H14FNO.ClH/c1-12-6-5-8-3-4-9(11)10(7-8)13-2;/h3-4,7,12H,5-6H2,1-2H3;1H
